US07749992B2
Step 5. Preparation of 5-(3,5-Bis-trifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
Add 3,5-bis(trifluoromethyl)benzylamine (3.2 g, 13.1 mmol) followed by titanium isopropoxide (5.0 mL) to 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester (3.5 g, 11.9 mmol) and stir at room temperature overnight. Dilute the mixture with 20 mL of Methanol and add sodium borohydride (23.8 mmol). Stir the suspension at room temperature for 1 h then dilute with water (200 mL) and ethyl acetate (200 mL). Filter the resulting emulsion through celite and wash with ethyl acetate (3×100 mL). Separate the organics and dry over sodium sulfate. Remove the solvent under vacuum and chromatograph the product over silica gel using ethyl acetate/hexane (5-30%) to elute. This affords the title compound (5.7 g, 93%) as an off white solid: MS (ES+): 523 (M+H).

reactant | 3,5-bis(trifluoromethyl)benzylamine | 13.1 mmol, 3.2 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | 8-Chloro-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 11.9 mmol, 3.5 g | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2)Cl | C15H18ClNO3
reactant | sodium borohydride | 23.8 mmol | [BH4-].[Na+]
solvent | Methanol | 20 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | titanium isopropoxide | 5.0 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 5-(3,5-Bis-trifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 5.7 g, 93% | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC(=C2)Cl | C24H25ClF6N2O2
